US07176210B2
Preparation of 2-(2-Chlorophenyl)-3-(4-chlorophenyl)-7-iodomethyl-6,7-dihydro-8-oxa-1,4,8b-triaza-as-indacene (15A-1)
To a mixture of 6-allyl-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol (I-15A-1a; 25 mg, 0.063 mmol) in 9:1 methylene chloride/chloroform (0.63 ml) at 0° C. was added N-iodosuccinimide (15 mg, 0.066 mmol), portionwise. The reaction was stirred overnight at room temperature and then extracted from water with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo. Purification on a Biotage™ Flash 12S column using 20% ethyl acetate in hexanes as eluant afforded compound 15A-1 (15 mg, 46%) as a solid: +ESI MS (M+1) 522.3; 1H NMR (400 MHz, CD3OD) δ 8.46 (s, 1H), 7.53–7.40 (m, 6H), 7.24 (d, J=8.7 Hz, 2H), 5.45–5.41 (m, 1H), 3.81–3.64 (m, 2H), 3.33 (d, J=6.2 Hz, 2H).

reactant | 6-allyl-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol | 0.063 mmol, 25 mg | C(C=C)C=1C=NC=2N(C1O)N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C21H15Cl2N3O
reactant | N-iodosuccinimide | 0.066 mmol, 15 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | methylene chloride chloroform | 0.63 ml | C(Cl)Cl.C(Cl)(Cl)Cl
product | 2-(2-Chlorophenyl)-3-(4-chlorophenyl)-7-iodomethyl-6,7-dihydro-8-oxa-1,4,8b-triaza-as-indacene | ClC1=C(C=CC=C1)C1=NN2C=3OC(CC3C=NC2=C1C1=CC=C(C=C1)Cl)CI | C21H14Cl2IN3O
